US08975254B2
b) 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine
To a suspension of lithium aluminium hydride (0.939 g, 24.8 mmol) in THF (20 ml) under nitrogen atmosphere at 0° C. was added slowly a solution of (E)-2-(5-(3,4-dichlorophenyl)furan-2-yl)ethenamine in THF (20 ml). Reaction mixture was stirred at RT for 1 h. Some methanol was added slowly to the mixture followed by addition of water. The mixture was evaporated, and the solid residue was extracted with EtOAc (3×). Combined EtOAc fractions were washed with 2M NaOH and brine. Organic phase was dried over Na2SO4, evaporated and purified by chromatography (CombiFlash, silica column, eluent: 10-20% MeOH/DCM) to give 227 mg (11%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.74 (t, 2H), 2.85 (t, 2H), 6.29 (d, 1H), 7.03 (d, 1H), 7.62 (dd, 1H), 7.63 (d, 1H), 7.88 (d, 1H).

reactant | lithium aluminium hydride | 24.8 mmol, 0.939 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (E)-2-(5-(3,4-dichlorophenyl)furan-2-yl)ethenamine | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)/C=C/N | C12H9Cl2NO
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine | 227 mg, 11% | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN | C12H11Cl2NO
